US08487109B2
N-(2-Thiophen-3-ylethynyl-phenyl)-acetamide
This product was prepared from toluene-4-sulfonic acid 2-acetylamino-phenyl ester and 3-ethynyl-thiophene following the general procedure for the Sonogashira cross-coupling process described above. Chromatography eluent: heptane/EtOAc 9:1; yield (48 mg, 40%); 1H NMR δ (CDCl3): 8.39 (d, J=8.51 Hz, 1H), 7.9 (br s, 1H), 7.36-7.30 (m, 2H), 7.30-7.21 (m, 3H), 7.02 (t, J=7.24 Hz, 1H), 2.21 (s, 3H); LCMS m/z: 241.

reactant | toluene-4-sulfonic acid 2-acetylamino-phenyl ester | C(C)(=O)NC1=C(C=CC=C1)OS(=O)(=O)C1=CC=C(C=C1)C | C15H15NO4S
reactant | 3-ethynyl-thiophene | C(#C)C1=CSC=C1 | C6H4S
solvent | heptane EtOAc | CCCCCCC.CCOC(=O)C
product | N-(2-Thiophen-3-ylethynyl-phenyl)-acetamide | S1C=C(C=C1)C#CC1=C(C=CC=C1)NC(C)=O | C14H11NOS
